US04219489
5,8-bis(ethylenedioxy)nonyltriphenylphosphonium iodide
A solution of 4.13 g (11.2 mmol) of 5,8-bis(ethylenedioxy)nonyl iodide and 2.93 g (11.2 mmol) of triphenyl phosphine in 25 ml of acetonitrile was buffered with a few drops of Hunig's Base and heated under nitrogen at 65° for 24 hours. The solvent was removed in vacuo until the resulting gum began to foam. This viscous gum was taken up in 25 ml of 3-pentanone and the resulting solution was seeded with a crystal of the salt and allowed to stand until crystallization was complete. Filtration afforded 4.98 g of salt. The mother liquors were placed in the freezer overnight and another 0.64 g of salt crystallized. Yield (5.62 g, 80%).

reactant | 5,8-bis(ethylenedioxy)nonyl iodide | 11.2 mmol, 4.13 g | C1OC(CCCCI)C(CC2COCCO2)OC1 | C13H23IO4
reactant | triphenyl phosphine | 11.2 mmol, 2.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
catalyst | Hunig's Base | a few drops | CCN(C(C)C)C(C)C | C8H19N
product | 5,8-bis(ethylenedioxy)nonyltriphenylphosphonium iodide | 4.98 g | [I-].C1OC(CCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(CC2COCCO2)OC1 | InChI=1S/C31H38O4P.HI/c1-4-12-27(13-5-1)36(28-14-6-2-7-15-28,29-16-8-3-9-17-29)23-11-10-18-30-31(35-22-21-34-30)24-26-25-32-19-20-33-26;/h1-9,12-17,26,30-31H,10-11,18-25H2;1H/q+1;/p-1
